US06762205B1
A mixture composed of 600 mg of 4-methoxy-N-(4-methoxy-phenyl)benzamide and 150 mg of 60% sodium hydride was stirred in 7.5 ml of dimethyl sulfoxide at 50° C. for 10 minutes. Then, 1.05 ml of ethyl iodide was added, and the reaction mixture was stirred for 30 minutes. After water was added to the reaction mixture, the product was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate. After the solvent was distilled off, the resulting crude product was purified by TLC (using a 80:1 mixture of chloroform and acetone as the developing solvent) to obtain 591 mg of N-ethyl-4-methoxy-N-(4-methoxyphenyl)benzamide.

reactant | 4-methoxy-N-(4-methoxy-phenyl)benzamide | 600 mg | COC1=CC=C(C(=O)NC2=CC=C(C=C2)OC)C=C1 | C15H15NO3
reactant | sodium hydride | 150 mg | [H-].[Na+]
reactant | ethyl iodide | 1.05 ml | C(C)I | C2H5I
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 7.5 ml | CS(=O)C | C2H6OS
product | N-ethyl-4-methoxy-N-(4-methoxyphenyl)benzamide | 591 mg | C(C)N(C(C1=CC=C(C=C1)OC)=O)C1=CC=C(C=C1)OC | C17H19NO3
